US06953801B2
A mixture of 2,3-dimethyl 4-methoxy benzaldehyde (1 g, 3.05 mmol), 1 equivalent of piperazine-1-carboxylic acid tert-butyl ester (0.57 g, 3.05 mmol), 1 equivalent of benzotriazole in ethanol was stirred at room temperature for 30 minutes. The solvent was removed and the reaction was dried under vacuum. The reaction mixture was then dissolved in anhydrous THF(20 ml) under N2 at −78° C. Then 3 equivalents (3.05 ml) of methyl magnesium bromide (3M in THF) was added to the solution slowly. The reaction mixture was kept at this temperature for 2 hours and warmed up to room temperature for overnight. The mixture was washed with 2N NaOH and water and extracted with ethyl acetate (2×30 ml). The combined organic layers were dried over MgSO4. After removal of organic solvent, the residue was purified by a flash column on silica gel eluted with 1:1 EtOAC:Hexane first, then with 10% MeOH(NH3) in dichloromethane. 4-[1-(4-methoxy-2,3-dimethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester was obtained as a yellow oil (0.59 g, 56%). Analysis H1 NMR (400 MHz, CDCl3): 7.21 (1H, d), 6.68 (1H, d), 3.8 (3H, s), 3.58 (1H, q), 3.38 (3H, m), 2.45 (2H, m), 2.37 (2H, m), 2.24 (3H, s), 2.18 (3H, s), 1.43 (9H, s), 1.24 (3H, d). MS (LC-MS): Calculated for C20H32N2O3 348.48, found 349.29 (M+).

reactant | 2,3-dimethyl 4-methoxy benzaldehyde | 3.05 mmol, 1 g | CC1=C(C=O)C=CC(=C1C)OC | C10H12O2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 3.05 mmol, 0.57 g, 1 equivalent | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | benzotriazole | 1 equivalent | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | methyl magnesium bromide | 3M, 3.05 ml, 3 equivalents | C[Mg]Br
solvent | ethanol | C(C)O | C2H6O
product | 4-[1-(4-methoxy-2,3-dimethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C)C1=C(C(=C(C=C1)OC)C)C | C20H32N2O3
